US06291626B1
500 g of 2-(2-hydroxyphenyl)phenylphosphonic acid (HPPA) was placed in a 300 ml flask which was connected to a vacuum system. The content was heated to its molten state (106° C.) under full vacuum for dehydration. The temperature was slowly increased from 106 to 160° C. until the dehydration was complete. White solids of DOPO (9,10-dihydro-9-oxa-10-phosphaphenanthrene-10-oxide) (yield 93%) with m.p. 119-120° C. after recrystallization from tetrahydrofuran was obtained. I.r.: 1168, 965 (P—Ph), 1196 (P═O), 2384 (P—H), 1587 cm−1 (P—Ph). Anal. Calcd. for C12H9O2P: C, 66.67; H, 4.17; O, 14.81; P, 14.35. Found: C, 66.64; H, 4.31; O, 14.59; P, 14.66. MS, m/z: 216 (100, M+).

reactant | 2-(2-hydroxyphenyl)phenylphosphonic acid | 500 g | OC1=C(C=CC=C1)C1=C(C=CC=C1)P(O)(O)=O | C12H11O4P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | DOPO | yield 93% | C1=CC=CC=2C3=CC=CC=C3OP(C12)=O | C12H9O2P
